US05763663
(S)-5-(2-amino-1-methyl-2-oxoethoxy)-N,N'-bis[2-hydroxy-1-(hydroxymethyl)ethyl]-2,4,6-triiodo-1,3-benzenedicarboxamide
To a solution of 21.8 g of N,N'-bis[2-hydroxy-1-(hydroxymethyl)ethyl]-5-hydroxy-2,4,6-triiodo-1,3-benzenedicarboxamide sodium salt (prepared according to the procedure described in patent EP 185130) (0.03 mol) in 70 mL of methyl cellosolve, heated to 80° C., 14.6 g of R-2-[[(4-methylphenyl)sulfonyl]oxy]propanamide (prepared according to the procedure described in Markert, F. Chem. Ber. 1927, 60, 2456) (0.056 mol) are added and the resulting mixture is kept under stirring in the same conditions for 8 h. After removing methyl cellosolve by evaporation under reduced pressure, the oily residue is treated with CH2Cl2 (2×250 mL). The solid, filtered and dried is dissolved in abs. EtOH (190 mL) and after filtration of sodium p-toluensulfonate, the solution is concentrated to dryness. The treatment is repeated with abs. EtOH (150 mL) and after evaporation the resulting residue is crystallized from abs. EtOH (75 mL). 10.5 g of the desired product (0.0135 mol) are recovered.

reactant | N,N'-bis[2-hydroxy-1-(hydroxymethyl)ethyl]-5-hydroxy-2,4,6-triiodo-1,3-benzenedicarboxamide sodium salt | 21.8 g | [Na].OCC(CO)NC(=O)C1=C(C(=C(C(=C1I)O)I)C(=O)NC(CO)CO)I
solvent | methyl cellosolve | 70 mL | COCCO | C3H8O2
product | (S)-5-(2-amino-1-methyl-2-oxoethoxy)-N,N'-bis[2-hydroxy-1-(hydroxymethyl)ethyl]-2,4,6-triiodo-1,3-benzenedicarboxamide | 0.0135 mol, 10.5 g, Yield: 45% | NC([C@@H](OC=1C(=C(C(=C(C1I)C(=O)NC(CO)CO)I)C(=O)NC(CO)CO)I)C)=O | C17H22I3N3O8
